// File: nand2x1_pcell.spi
// Created: Sun Apr 12 08:41:18 2026
// Program "Calibre xRC"
// Version "v2023.2_27.15"
// 
simulator lang=spectre
include "/import/yukari1/lrburle/sky130RHBDlib/calibre/sky130_rhbd_output/spice/nand2x1_pcell.pex.spice"
subckt nand2x1_pcell (  )
// 
M0_noxref ( noxref_3 N_noxref_2_M0_noxref_g N_noxref_6_M0_noxref_s noxref_53 ) \
 NMOS l=0.163119 w=2.35104 m=1
M1_noxref ( N_noxref_5_M1_noxref_d N_noxref_4_M1_noxref_g \
 N_noxref_6_M0_noxref_s noxref_53 ) NMOS l=0.163346 w=2.31104 m=1
M2_noxref ( N_noxref_5_M2_noxref_d N_noxref_2_M2_noxref_g \
 N_noxref_1_M2_noxref_s noxref_51 ) PMOS l=0.15 w=2 ad=0.57 as=0.57 pd=2.57 \
 ps=2.57 nrd=0 nrs=0 m=1
M3_noxref ( N_noxref_1_M3_noxref_d N_noxref_2_M3_noxref_g \
 N_noxref_5_M2_noxref_d noxref_51 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 \
 ps=2.58 nrd=0 nrs=0 m=1
M4_noxref ( N_noxref_5_M4_noxref_d N_noxref_4_M4_noxref_g \
 N_noxref_1_M3_noxref_d noxref_51 ) PMOS l=0.15 w=2 ad=0.58 as=0.58 pd=2.58 \
 ps=2.58 nrd=0 nrs=0 m=1
M5_noxref ( N_noxref_1_M5_noxref_d N_noxref_4_M5_noxref_g \
 N_noxref_5_M4_noxref_d noxref_51 ) PMOS l=0.15 w=2 ad=0.56 as=0.56 pd=2.56 \
 ps=2.56 nrd=0 nrs=0 m=1
c_165 ( noxref_3 0 ) capacitor c=0.699381f //x=0.99 //y=0.865
// 
include "/import/yukari1/lrburle/sky130RHBDlib/calibre/sky130_rhbd_output/spice/nand2x1_pcell.pxi.spice"
// 
ends NAND2X1_PCELL
// 
// 
